US04082751
2-(2-n-Propoxyphenyl)-5-(5-1H-tetrazolyl) pyrimidin-4(3H)-one (illustrates single step procedure)
To a cooled (ice bath) solution of 2-n-propoxybenzamide (1.00 g., 5.61 mmoles) in dry N,N-dimethylformamide (4 ml.) was added ethyl ethoxymethylenecyanoacetate (0.94 g., 5.61 mmoles). Twenty minutes later sodium azide (0.447 g., 6.88 mmoles) and ammonium chloride (0.368 g., 6.88 mmoles were added. The ice bath was removed and the mixture heated by means of an oil bath maintained at 127° for 30 hours. The cooled mixture was poured into ice-water (400 ml.) and acidified with 6N hydrochloric acid. The collected solid (0.93 g.), m.p. 245°-248° (decomp) was recrystallized from 2-methoxyethanol to give the title compound (0.69 g., 41%) m.p. 256°-257° (decomp).

reactant | 2-n-propoxybenzamide | 5.61 mmoles, 1.00 g | C(CC)OC1=C(C(=O)N)C=CC=C1 | C10H13NO2
reactant | ethyl ethoxymethylenecyanoacetate | 5.61 mmoles, 0.94 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | sodium azide | 6.88 mmoles, 0.447 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-(2-n-Propoxyphenyl)-5-(5-1H-tetrazolyl) pyrimidin-4(3H)-one | 0.69 g, 41% | C(CC)OC1=C(C=CC=C1)C1=NC=C(C(N1)=O)C1=NN=NN1 | C14H14N6O2
